US06858370B2
Tetrahydrothiophene (53.2 g) was dissolved in 400 ml of acetonitrile, and thereto was slowly added a solution obtained by dissolving 100 g of phenacyl bromide in 300 ml of acetonitrile, and the solution was stirred at room temperature for 3 hours, thereby a powder was precipitated. The reaction solution was poured into 1,500 ml of ethyl acetate, and the powder was filtered out and dried, thus 137 g of phenacyltetrahydrothiophenium bromide was obtained.

reactant | Tetrahydrothiophene | 53.2 g | S1CCCC1 | C4H8S
reactant | phenacyl bromide | 100 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
solvent | acetonitrile | 400 ml | C(C)#N | C2H3N
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | phenacyltetrahydrothiophenium bromide | 137 g | [Br-].C(C(=O)C1=CC=CC=C1)[S+]1CCCC1 | InChI=1S/C12H15OS.BrH/c13-12(10-14-8-4-5-9-14)11-6-2-1-3-7-11;/h1-3,6-7H,4-5,8-10H2;1H/q+1;/p-1
